US07968552B2
A mixture of 4-{[4′-(3-hydroxypropoxy)-2,6′-dimethylbiphenyl-3-yl]methoxy}benzaldehyde, acetyl chloride, triethylamine and dichloromethane was stirred at room temperature for 3.5 hours to obtain 3-({3′-[(4-formylphenoxy)methyl]-2,6-dimethylbiphenyl-4-yl}oxy)propyl acetate.

reactant | 4-{[4′-(3-hydroxypropoxy)-2,6′-dimethylbiphenyl-3-yl]methoxy}benzaldehyde | OCCCOC1=CC=C(C(=C1)C)C1=C(C(=CC=C1)COC1=CC=C(C=O)C=C1)C | C25H26O4
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-({3′-[(4-formylphenoxy)methyl]-2,6-dimethylbiphenyl-4-yl}oxy)propyl acetate | C(C)(=O)OCCCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)COC1=CC=C(C=C1)C=O)C | C27H28O5
